*  Generated for: PrimeSim
*  Design library name: la_vco1
*  Design cell name: VCO_stm
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Thu Feb 24 11:34:44 2022

.global gnd!
********************************************************************************
* Library          : la_vco1
* Cell             : VCO
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt vco gnd_1 in vdd out
r0 vdd net3 r=1k
xm11 net58 out net43 vdd p105 w=0.1u l=0.03u nf=1 m=1
xm10 out net70 net39 vdd p105 w=0.1u l=0.03u nf=1 m=1
xm9 net70 net66 net35 vdd p105 w=0.1u l=0.03u nf=1 m=1
xm8 net66 net62 net31 vdd p105 w=0.1u l=0.03u nf=1 m=1
xm7 net62 net58 net27 vdd p105 w=0.1u l=0.03u nf=1 m=1
xm6 net39 net47 vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm5 net35 net47 vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm4 net31 net47 vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm3 net27 net47 vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm2 net43 net47 vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm1 net47 net47 net3 vdd p105 w=0.1u l=0.03u nf=1 m=1
xm22 net87 in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm21 net83 in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm20 net79 in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm19 net75 in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm18 net71 in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm17 out net70 net87 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm16 net70 net66 net83 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm15 net66 net62 net79 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm14 net62 net58 net75 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm13 net58 out net71 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm12 net47 in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
.ends vco

********************************************************************************
* Library          : la_vco1
* Cell             : VCO_stm
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 gnd! input net7 output vco
v1 input gnd! dc=0 sin ( 0 1 8G 0 0 0 )
v2 net7 gnd! dc=1.8
c8 output gnd! c=0.01p








.tran '1n' '10n' name=tran
.ac dec '10' '100k' '100G' name=ac

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(input) v(output)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end